US04021479
4-(4'-Nitro-4-biphenylyl)-butyric acid by method B
To a suspension of 14.4 gm of 4-(4-biphenylyl)-butyric acid in 72 ml of glacial acetic acid at 24°-27° C. 24 ml of fuming nitric acid (d=1.52) were added dropwise. After stirring for 5 minutes, the mixture was poured into ice water while stirring, and the aqueous mixture was extracted with benzene. The benzene phase was washed with water, dried and evaporated; the residue was dissolved in 100 ml of acetone and admixed with 6.8 ml of cyclohexylamine. The thus obtained cyclohexylamine salt had a melting point of 160°-161° C. (after recrystallization from 200 ml of isopropanol). Melting point of the free acid: 124° C. (from carbon tetrachloride).

reactant | 4-(4-biphenylyl)-butyric acid | 14.4 gm | C1(=CC=C(C=C1)CCCC(=O)O)C1=CC=CC=C1 | C16H16O2
reactant | nitric acid | 24 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 72 ml | C(C)(=O)O | C2H4O2
product | 4-(4'-Nitro-4-biphenylyl)-butyric acid | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)CCCC(=O)O | C16H15NO4
